US04778912
1-(12-Cyclohexyldodecyloxy)-2,3-propanediol
A mixture of 40.8 g (0.123 mole) of 12-cyclohexyldodecyl bromide, 22.7 g (0.172 mole) of 1,2-isopropylideneglycerol, 1.0 g of cetyltrimethylammonium chloride and 27.6 g (0.344 mole) of 50% aqueous sodium hydroxide solution was stirred at 80° C. for 10 hours. To the reaction mixture was added 200 ml of hexane and the resulting mixture was washed with water, dried (MgSO4) and concentrated under reduced pressure. To the residue were added 200 ml of methanol and 4 ml of 6N hydrochloric acid, and the mixture was heated unde reflux for 10 hours. The mixture was cooled and the colorless crystals precipitated were collected by filtration, washed with hexane and dried to give 10.1 g of the above-mentioned compound. The mother liquid was further cooled to obtain 20.8 g of the second crystals. Total yield: 30.9 g (yield: 74%)

reactant | 12-cyclohexyldodecyl bromide | 0.123 mole, 40.8 g | C1(CCCCC1)CCCCCCCCCCCCBr | C18H35Br
reactant | 1,2-isopropylideneglycerol | 0.172 mole, 22.7 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydroxide | 0.344 mole, 27.6 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 1.0 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-(12-Cyclohexyldodecyloxy)-2,3-propanediol | 10.1 g | C1(CCCCC1)CCCCCCCCCCCCOCC(CO)O | C21H42O3
